US06730668B2
Preparation of 2,2-dimethyl-propionic acid 1-[2-(4-fluorophenyl)acetyl]-pyrazolidin-4-yl ester (32):
2-[2-(4-Fluorophenyl)acetyl]-4-(2,2-dimethylpropionyloxy)-pyrazolidine-1-carboxylic acid 1-benzyl ester, 31, (1.71 g, 3.86 mmol) is dissolved in methanol (40 mL). The flask is flushed with nitrogen and charged with 10% palladium on carbon (300 mg). The reaction flask is stirred vigorously at room temperature under 1 atmosphere of hydrogen gas for 6 hours. The flask is flushed with nitrogen and the reaction mixture filtered through a pad of Celite, rinsing with ethyl acetate (100 mL). The filtrate is concentrated in vacuo to afford 1.18 g (98% yield) of the desired product as a tan solid.

reactant | 2-[2-(4-Fluorophenyl)acetyl]-4-(2,2-dimethylpropionyloxy)-pyrazolidine-1-carboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)OC(C(C)(C)C)=O)C(CC1=CC=C(C=C1)F)=O | C24H27FN2O5
solvent | methanol | 40 mL | CO | CH4O
product | 2,2-dimethyl-propionic acid 1-[2-(4-fluorophenyl)acetyl]-pyrazolidin-4-yl ester | 1.18 g, 98% yield | FC1=CC=C(C=C1)CC(=O)N1NCC(C1)OC(C(C)(C)C)=O | C16H21FN2O3
